US04814344
3-(1H-Imidazol-1-yl)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone
3-(Dimethylamino)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone was converted to the methiodide (5.50 g) which was then reacted with imidazole (5.50 g) to give a solid which was crystallised from ethyl acetate to give the title compound (2.91 g), m.p. 159°-162°; λmax (EtOH) 251 nm (ε19,470), λmax 307 nm (ε13,800).

reactant | 3-(Dimethylamino)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone | CN(CCC(=O)C1=C(N(C2=CC=CC=C12)C)C1=CC=CC=C1)C | C20H22N2O
reactant | imidazole | 5.50 g | N1C=NC=C1 | C3H4N2
product | 3-(1H-Imidazol-1-yl)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone | 2.91 g | N1(C=NC=C1)CCC(=O)C1=C(N(C2=CC=CC=C12)C)C1=CC=CC=C1 | C21H19N3O
